US05077409
m-Tetradecyloxyphenylacetic acid
A mixture of 40.5 g of 3-(tetradecyloxy)benzeneacetic acid, methyl ester, 18.8 g of potassium hydroxide, 15 ml of water and 300 ml of ethyl alcohol is refluxed for 4 hours. The solvent is removed and the residue partitioned between chloroform and dilute hydrochloric acid. The organic layer is dried and evaporated to a residue which is crystallized from carbon tetrachloride:hexane to give 31.8 g of the desired product as a white solid.

reactant | 3-(tetradecyloxy)benzeneacetic acid, methyl ester | 40.5 g | C(CCCCCCCCCCCCC)OC=1C=C(C=CC1)CC(=O)OC | C23H38O3
reactant | potassium hydroxide | 18.8 g | [OH-].[K+]
reactant | water | 15 ml | O | H2O
solvent | ethyl alcohol | 300 ml | C(C)O | C2H6O
product | m-Tetradecyloxyphenylacetic acid | 31.8 g | C(CCCCCCCCCCCCC)OC=1C=C(C=CC1)CC(=O)O | C22H36O3
